US04853390
In the same was as described in Example 7, 340 mg of 1,1-diethyl-3(6-methylergolinyl)urea (1 millimole) was dissolved in 19 ml of anhydrous acetonitrile and 0.3 ml of boron trifluoride etherate in 5 ml of anhydrous methylene chloride and reacted with 0.09 ml of freshly distilled sulfuryl chloride, dissolved in 10 ml of anhydrous methylene chloride. The product was worked up and chromatographed as described in Example 7, thus obtaining 270 mg of 3-(2-chloro-6-methyl-8β-ergolinyl)-1,1-diethylurea.

reactant | 1,1-diethyl-3(6-methylergolinyl)urea | 1 millimole, 340 mg | C(C)N(C(=O)NC1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)CC | C20H28N4O
reactant | boron trifluoride etherate | 0.3 ml | B(F)(F)F.CCOCC
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 19 ml | C(C)#N | C2H3N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-chloro-6-methyl-8β-ergolinyl)-1,1-diethylurea | 270 mg | ClC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C20H27ClN4O
